US05442060
To a solution of 5.09 g (17.7 mmol) of 2, 6-diisopropylphenyl iodide in 70 ml of dry ethyl ether was dropwise added 1.6M solution of n-butyllithium in hexane (11.1 ml, 17.8 mmol) at -20° C. The reaction mixture was allowed to warm at 0° C., stirred for 1 hour and poured onto about 100 g of pulverized dry ice. The mixture was allowed to warm gradually to room temperature, mixed with 50 ml of water and the aqueous layer was made alkaline with aqueous sodium hydroxide. The organic layer was separated, and the aqueous layer was washed with ethyl ether, acidified With conc. hydrochloric acid and extracted with ethyl ether. The extract was washed with saturated saline, dried over anhydrous magnesium sulfate, and the solvent evaporated to give 2.53 g of 2, 6-diisopropylbenzoic acid as white solid.

reactant | 2, 6-diisopropylphenyl iodide | 17.7 mmol, 5.09 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)I | C12H17I
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 17.8 mmol, 11.1 ml | CCCCCC | C6H14
reactant | dry ice | about 100 g | C(=O)=O | CO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 2, 6-diisopropylbenzoic acid | 2.53 g | C(C)(C)C1=C(C(=O)O)C(=CC=C1)C(C)C | C13H18O2
